US05596002
(7-Chloro-quinolin-4-yl)-[2-(4-methyl-piperidin-1-yl)-ethyl]-amine
2.72 g from 2.5 g of N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride; colourless crystals from acetonitrile, m.p.: 154°-156° C.

reactant | N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride | 2.5 g | Cl.ClCCNC1=CC=NC2=CC(=CC=C12)Cl
reactant | acetonitrile | C(C)#N | C2H3N
product | (7-Chloro-quinolin-4-yl)-[2-(4-methyl-piperidin-1-yl)-ethyl]-amine | ClC1=CC=C2C(=CC=NC2=C1)NCCN1CCC(CC1)C | C17H22ClN3
